US03940395
Similarly, 4-chloro-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine is reacted with p-propylthiophenol to afford 6-(4-methyl-1-piperazinyl)-2-phenyl-4-(4-propylphenylthio)pyrimidine.

reactant | 4-chloro-6-(4-methyl-1-piperazinyl)-2-phenylpyrimidine | ClC1=NC(=NC(=C1)N1CCN(CC1)C)C1=CC=CC=C1 | C15H17ClN4
reactant | p-propylthiophenol | C(CC)C1=CC=C(C=C1)S | C9H12S
product | 6-(4-methyl-1-piperazinyl)-2-phenyl-4-(4-propylphenylthio)pyrimidine | CN1CCN(CC1)C1=CC(=NC(=N1)C1=CC=CC=C1)SC1=CC=C(C=C1)CCC | C24H28N4S
